US20010053785A1
(2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-butyric acid
The title compound was prepared from 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol, and tert-butyl (S)-(−)-hydroxybutyrate, in substantially the same manner, as described in Example 1, steps g-h , and was obtained as a white solid, mp 79-80° C.; MS m/e 617 (M−H)+;

reactant | 4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-ol | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C27H18Br2O2
reactant | tert-butyl (S)-(−)-hydroxybutyrate | O[C@H](C(=O)OC(C)(C)C)CC | C8H16O3
product | (2S)-2-[4′-(2-benzyl-benzofuran-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-butyric acid | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)C1=CC(=C(C(=C1)Br)O[C@H](C(=O)O)CC)Br)C=CC=C2 | C31H24Br2O4
